US07547701B2
8-(2,2,2-Trifluoroethyl)-1,4-dioxa-8-aza-spiro[4.5]decane (3.7 g, 16 mmol) was added to a solution of 5% HCl (45 mL) and acetone (8 mL). After refluxing for 12 h, the solvent was removed to give crude 1-(2,2,2-trifluoroethyl)piperidin-4-one hydrochloride which was used in the next reaction.

reactant | 8-(2,2,2-Trifluoroethyl)-1,4-dioxa-8-aza-spiro[4.5]decane | 16 mmol, 3.7 g | FC(CN1CCC2(OCCO2)CC1)(F)F | C9H14F3NO2
reactant | HCl | 45 mL | Cl | ClH
solvent | acetone | 8 mL | CC(=O)C | C3H6O
product | 1-(2,2,2-trifluoroethyl)piperidin-4-one hydrochloride | Cl.FC(CN1CCC(CC1)=O)(F)F | InChI=1S/C7H10F3NO.ClH/c8-7(9,10)5-11-3-1-6(12)2-4-11;/h1-5H2;1H
